US09126970B2
Step b): 12-(4,6-Diphenyl-1,3,5-triazin-2-yl)-10,10-dimethyl-10,12-dihydro-3,12-diazaindeno[2,1-b]fluorene
10 g (35.17 mmol) of 10,10-dimethyl-10,12-dihydro-3,12-diazaindeno-[2,1-b]fluorene are dissolved in 150 ml of dimethylformamide under a protective-gas atmosphere, and 1.7 g of 60% NaH in mineral oil (42.2 mmol) are added. After 1 h at room temperature, a solution of 2-chloro-4,6-diphenyl-1,3,5-triazine (10.7 g, 38.68 mmol) in 100 ml of THF is added dropwise. The reaction mixture is stirred at room temperature for 12 h. After this time, the reaction mixture is poured onto ice and extracted three times with dichloromethane. The combined organic phases are dried over Na2SO4 and evaporated. The residue is extracted with hot toluene, recrystallised from toluene and finally sublimed in a high vacuum, the purity is 99.9%. The yield is 14.4 g (80%).

reactant | 10,10-dimethyl-10,12-dihydro-3,12-diazaindeno-[2,1-b]fluorene | 35.17 mmol, 10 g | CC1(C2=CC=CC=C2C=2C=C3C(=CC12)NC1=CC=NC=C13)C | C20H16N2
reactant | NaH | 1.7 g | [H-].[Na+]
reactant | 2-chloro-4,6-diphenyl-1,3,5-triazine | 38.68 mmol, 10.7 g | ClC1=NC(=NC(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C15H10ClN3
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 12-(4,6-Diphenyl-1,3,5-triazin-2-yl)-10,10-dimethyl-10,12-dihydro-3,12-diazaindeno[2,1-b]fluorene | C1(=CC=CC=C1)C1=NC(=NC(=N1)C1=CC=CC=C1)N1C2=CC=NC=C2C=2C1=CC=1C(C3=CC=CC=C3C1C2)(C)C | C35H25N5
